US08183271B2
Methyl 4-((3E)-4-{2-[(4-tert-butyl-2-chlorobenzyl)oxy]phenyl}-2-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}but-3-en-1-yl)benzoate
A solution of 478 mg (0.81 mmol) of methyl 4-{(3E)-4-{2-[(4-tert-butyl-2-chlorobenzyl)oxy]-phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}benzoate in 10 ml of toluene is mixed with 1116 mg (9.69 mmol) of trimethylsilyl azide and 351 mg (1.21 mmol) of di-n-butyltin oxide and then heated at 80° C. for 12 h. After cooling to room temperature, the mixture is washed with saturated sodium bicarbonate solution. The organic phase is separated off, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate is concentrated to dryness. The resulting crude product is purified by chromatography on a silica gel column (mobile phase: cyclohexane/ethyl acetate 2:1→1:2). 144 mg (0.23 mmol, 28% of theory) of a white foam are obtained.

reactant | methyl 4-{(3E)-4-{2-[(4-tert-butyl-2-chlorobenzyl)oxy]-phenyl}-2-[2-(4-cyanophenyl)ethyl]but-3-en-1-yl}benzoate | 0.81 mmol, 478 mg | C(C)(C)(C)C1=CC(=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C#N)C=C1)Cl | C38H38ClNO3
reactant | trimethylsilyl azide | 9.69 mmol, 1116 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | di-n-butyltin oxide | 1.21 mmol, 351 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-((3E)-4-{2-[(4-tert-butyl-2-chlorobenzyl)oxy]phenyl}-2-{2-[4-(1H-tetrazol-5-yl)phenyl]ethyl}but-3-en-1-yl)benzoate | C(C)(C)(C)C1=CC(=C(COC2=C(C=CC=C2)/C=C/C(CC2=CC=C(C(=O)OC)C=C2)CCC2=CC=C(C=C2)C2=NN=NN2)C=C1)Cl | C38H39ClN4O3
